US06440995B1
2-(2-Phenyl-quinolin-4-ylamino)-ethanol hydrochloride
The title compound, m.p. 258-260° C., MS: m/e=264 (M+), was prepared from 4-chloro-2-phenyl-quinoline and ethanolamine.

reactant | 4-chloro-2-phenyl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-(2-Phenyl-quinolin-4-ylamino)-ethanol hydrochloride | Cl.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)NCCO | InChI=1S/C17H16N2O.ClH/c20-11-10-18-17-12-16(13-6-2-1-3-7-13)19-15-9-5-4-8-14(15)17;/h1-9,12,20H,10-11H2,(H,18,19);1H
